
** BQ with Single direction **



.subckt sJTL IN OUT

L1 IN 1 2.5p
L2 1 OUT 2.5p
BJ1 1 0 jjmit area=2.5
RJ1 1 0 4

IB1 0 1 pwl(0 0 5p 190u)
.model jjmit jj(rtype=1, vg=2.8mV, cap=0.07pF, r0=160, rN=16, icrit=0.1mA)
.ends sJTL